US07872022B2
d) (3S,4R)-4-(4-Fluoro-phenyl)-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of (−)-(3S,4R)-4-(4-fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (1.71 g, 5.29 mmol) in 35 ml THF was added a 2 M borane dimethylsulfide complex solution in THF (5.44 ml, 10.9 mmol) at 0° C. The mixture was stirred for 15 min at 0° C. and then at room temperature over night. After cooling to 0° C. the reaction was quenched by the addition of methanol. Stirring was continued until no evolution of gas was observed any more. The reaction mixture was diluted with water and extracted with 3 portions of tert-butyl methyl ethyl. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash chromatography gave 1.58 g (94%) of the title compound as a colorless viscous oil.

reactant | (−)-(3S,4R)-4-(4-fluoro-phenyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 5.29 mmol, 1.71 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)C(=O)O | C17H22FNO4
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 10.9 mmol, 5.44 ml | C1CCOC1 | C4H8O
product | (3S,4R)-4-(4-Fluoro-phenyl)-3-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.58 g, 94% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)CO | C17H24FNO3
